US06348474B1
2,7-Dimethyl-1H-imidazo[4,5-b]pyridine-4-oxide
To a solution of 2,7-dimethyl-1H-imidazo[4,5-b]pyridine (4.29 g) in chloroform (43 ml) was added m-chloroperbenzoic acid (80%, 7.55 g) at room temperature, and the mixture was refluxed under heating for 1 hr. After cooling to room temperature, the reaction mixture was directly purified by silica gel column chromatography (chloroform/methanol=9/1) and pulverized in ethyl acetate to give the objective compound (4.61 g) as a brown powder.

reactant | 2,7-dimethyl-1H-imidazo[4,5-b]pyridine | 4.29 g | CC=1NC=2C(=NC=CC2C)N1 | C8H9N3
reactant | m-chloroperbenzoic acid | 7.55 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 43 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,7-Dimethyl-1H-imidazo[4,5-b]pyridine-4-oxide | 4.61 g | CC=1NC=2C(=[N+](C=CC2C)[O-])N1 | C8H9N3O
